US07446222B2
c) 5″-Acetylamino-2-benzyloxy-5-chloro[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester
Acetic anhydride (53 mg, 0.5 mmol) was added to a solution of 5″-amino-2-benzyloxy-5-chloro-[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester (96 mg, 0.21 mmol) in pyridine (2 ml) and the mixture left at room temperature for 1 hour. The resulting solution was diluted with diethyl ether, washed with 1M hydrochloric acid and saturated sodium bicarbonate solution, dried (MgSO4) and evaporated to dryness to yield the title compound as a colourless gum. (102 mg, 97%).

reactant | Acetic anhydride | 0.5 mmol, 53 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5″-amino-2-benzyloxy-5-chloro-[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester | 0.21 mmol, 96 mg | C(C)OC(=O)C=1C=C(C=C(C1)N)C=1C(=CC=CC1)C1=C(C=CC(=C1)Cl)OCC1=CC=CC=C1 | C28H24ClNO3
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5″-Acetylamino-2-benzyloxy-5-chloro[1,1′;2′,1″]terphenyl-3″-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=C(C=C(C1)NC(C)=O)C=1C(=CC=CC1)C1=C(C=CC(=C1)Cl)OCC1=CC=CC=C1 | C30H26ClNO4
